US07943609B2
(11R)-11-(1-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline (1.14 g, 2.91 mmol) was dissolved in 30 mL of THF and the stirred solution was cooled to −50° C. Tetrabutylammonium fluoride (1.0 M solution in THF, 4.37 mL) was added slowly and the stirred reaction mixture was allowed top warm to ambient temperature over 4 hours. The reaction mixture was concentrated under reduced pressure and the resulting material was partitioned between 50 mL of CH2Cl2 and saturated NaHCO3 solution. The layers were separated and the organic portion was washed with brine (4×20 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 8% MeOH/CHCl3) gave 2-[(11R)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol (755 mg) as an off-white solid.

reactant | (11R)-11-(1-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 2.91 mmol, 1.14 g | [Si](C)(C)(C(C)(C)C)OC(C)(C)[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C22H31N3O2Si
reactant | Tetrabutylammonium fluoride | 1.0 M, 4.37 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-[(11R)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propan-2-ol | 755 mg | C1=C2C3=C(C=NC2=CC=C1)N=C1N3[C@H](COC1)C(C)(C)O | C16H17N3O2
